US07968552B2
WSC hydrochloride (163 mg) was added to a mixture of 3′-({4-[(3,5-dioxo-1,2,4-oxadiazolidin-2-yl)methyl]phenoxy}methyl)-4-biphenylcarboxylic acid (293 mg), (2-ethoxyethyl)amine (0.11 ml), HOBt (142 mg) and DMF (10 ml), followed by stirring at room temperature for 27 hours. The solvent was evaporated under a reduced pressure, and chloroform/methanol (4/1) was added to the residue, followed by washing with water and a saturated ammonium chloride aqueous solution. The solvent was evaporated under a reduced pressure, and the residue was purified by silica gel column chromatography (chloroform/methanol), the resulting foamy substance was further crystallized by adding diethyl ether, and the resulting crystals were recrystallized from methanol to obtain 3′-({4-[(3,5-dioxo-1,2,4-oxadiazolidin-2-yl)methyl]phenoxy}methyl)-N-(2-ethoxyethyl)-4-biphenylcarboxamide (135 mg) as white crystals.

reactant | WSC hydrochloride | 163 mg | CCN=C=NCCCN(C)C.Cl
reactant | 3′-({4-[(3,5-dioxo-1,2,4-oxadiazolidin-2-yl)methyl]phenoxy}methyl)-4-biphenylcarboxylic acid | 293 mg | O=C1N(OC(N1)=O)CC1=CC=C(OCC=2C=C(C=CC2)C2=CC=C(C=C2)C(=O)O)C=C1 | C23H18N2O6
reactant | (2-ethoxyethyl)amine | 0.11 ml | C(C)OCCN | C4H11NO
reactant | HOBt | 142 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3′-({4-[(3,5-dioxo-1,2,4-oxadiazolidin-2-yl)methyl]phenoxy}methyl)-N-(2-ethoxyethyl)-4-biphenylcarboxamide | 135 mg | O=C1N(OC(N1)=O)CC1=CC=C(OCC=2C=C(C=CC2)C2=CC=C(C=C2)C(=O)NCCOCC)C=C1 | C27H27N3O6
